US04036979
Preparation of (+)-4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-ylurea, isomers A and B
In the same manner as described in reducing the (-)-4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea, (+)- 4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea is reduced with NaBH4 to afford isomer B of the title compound, m.p. 216°-217° C. (dec.), [α]D25.5 = + 18.51° (c, 2.11 in methanol). This isomer is 95% pure by high pressure liquid chromatography. Isomer A of the title compound is also purified by high pressure liquid chromatography as a 90-95% pure material, m.p. 160°-164° C. (dec.), [α]D24.5 = -91.03° (c, 2.2 in methanol). The cis and trans configurations for isomers A and B have not been determined unequivocally.

reactant | (-)-4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea | O=C1CCC(C2=C1SC=C2)NC(=O)N | C9H10N2O2S
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (+)-4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-ylurea | OC1CCC(C2=C1SC=C2)NC(=O)N | C9H12N2O2S
